US04960897
Preparation of 2-(1-chloromethylvinyl)pyridine (Compound No. I-1)
A mixture of 4.0 g of 2-isopropenylpyridine, 4.5 g of N-chlorosuccinimide and 8 ml of carbon tetrachloride was stirred at 150° to 160° C. for 20 minutes. After the reaction mixture was cooled to room temperature, n-hexane was added thereto to remove the insoluble matter through filtration. After distilling off the solvent, the residue was purified by silica gel column chromatography (eluted with n-hexane-ethyl acetate 20:1) to obtain 1.0 g of the objective compound.

reactant | 2-isopropenylpyridine | 4.0 g | C(=C)(C)C1=NC=CC=C1 | C8H9N
reactant | N-chlorosuccinimide | 4.5 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | carbon tetrachloride | 8 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | n-hexane | CCCCCC | C6H14
product | 2-(1-chloromethylvinyl)pyridine | 1.0 g | ClCC(=C)C1=NC=CC=C1 | C8H8ClN
